US05728686
b) Diethyl [4-(7-ethoxymethyl-3-ethylxanthin-1-yl)butyl]phosphonate
The title substance was prepared from 0.01 5 mol of 7-ethoxymethyl-3-ethylxanthine and 0.017 mol of diethyl 4-chlorobutanephosphonate analogously to 53.

reactant | 7-ethoxymethyl-3-ethylxanthine | C(C)OCN1C=NC=2N(C(NC(C12)=O)=O)CC | C10H14N4O3
reactant | diethyl 4-chlorobutanephosphonate | 0.017 mol | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
product | Diethyl [4-(7-ethoxymethyl-3-ethylxanthin-1-yl)butyl]phosphonate | C(C)OCN1C=NC=2N(C(N(C(C12)=O)CCCCP(OCC)(OCC)=O)=O)CC | C18H31N4O6P
